### PR TITLE
feat: germs of smooth functions

### PR DESCRIPTION
**Pull request by grunweg**
Define the space of germs of smooth functions (between manifolds).
Endow it with a ring structure if the target manifold is a smooth ring (e.g., a Lie group or a field).

From the sphere eversion project, rewritten by me.
Co-authored-by: Patrick Massot

-------

Particular questions for review
- is the authorship/copyright information appropriate?
(`PatrickMassot` created the file `SmoothGerm` which I adapted; I didn't trace this far back through sphere-eversion.)
- is providing all the intermediate algebraic structures (such as, an additive subgroup) on the space of smooth germs useful in practice? (The sphere eversion project only needs a ring structure.)
- any further particular API lemmas (e.g., around coercions) which would be good to add?

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Geometry/Manifold/Algebra/SmoothGerm.lean [hunk 1]
```diff
@@ -0,0 +1,135 @@
...
+  toSubmonoid := smoothGerm.toSubmonoid I I' R x
+  -- FIXME: can I copy these fields from `toAddSubgroup`?
+  zero_mem' := ⟨0, by rw [SmoothMap.coe_zero, Germ.coe_zero]⟩
+  add_mem' ha hb := by
+    choose f hf using ha
+    choose g hg using hb
+    exact ⟨f + g, by rw [← hf, ← hg, SmoothMap.coe_add, Germ.coe_add]⟩
+  neg_mem' h := by
+    choose f hf using h
+    exact ⟨ -f, by rw [← hf, SmoothMap.coe_neg, Germ.coe_neg]⟩
```
Comment (mcdoll) [inline Mathlib/Geometry/Manifold/Algebra/SmoothGerm.lean:122]:
```suggestion
/-- If `R` is a smooth ring, `smoothGerm I I' R x` is a subring of `Germ (𝓝 x) R`. -/
def smoothGerm.toSubring [SmoothRing I' R] (x : M) : Subring (Germ (𝓝 x) R) where
  __ := smoothGerm.toSubmonoid I I' R x
  __ := smoothGerm.toAddSubgroup I I' R x
```

File: Mathlib/Geometry/Manifold/Algebra/SmoothGerm.lean [hunk 2]
```diff
@@ -0,0 +1,135 @@
...
+@[simp]
+theorem smoothGerm.coe_coe (f : C^∞⟮I, M; I', N⟯) (x : M) :
+    ((f : smoothGerm I I' N x) : (𝓝 x).Germ N) = (f : (𝓝 x).Germ N) :=
+  rfl
+
+@[simp]
+theorem smoothGerm.coe_eq_coe (f g : C^∞⟮I, M; I', N⟯) {x : M} (h : ∀ᶠ y in 𝓝 x, f y = g y) :
+    (f : smoothGerm I I' N x) = (g : smoothGerm I I' N x) := by
+  ext
+  exact Germ.coe_eq.mpr h
```
Comment (mcdoll) [inline Mathlib/Geometry/Manifold/Algebra/SmoothGerm.lean:60]:
```suggestion
  rwa [Germ.coe_eq]
```

File: Mathlib/Geometry/Manifold/Algebra/SmoothGerm.lean [hunk 3]
```diff
@@ -0,0 +1,135 @@
...
+    exact ⟨ -f, by rw [← hf, SmoothMap.coe_neg, Germ.coe_neg]⟩
+
+-- xxx: is this lemma useful?
+lemma smoothGerm.toSubring_mem_coe [SmoothRing I' R] {x : M} (a : Germ (𝓝 x) R) :
+    a ∈ smoothGerm.toSubring I I' R x ↔ a ∈ smoothGerm I I' R x := Iff.rfl
+
+/-- The map `C^∞(M, R) → Germ (𝓝 x) R` as a ring homomorphism, for a smooth ring `R`. -/
+def RingHom.germOfContMDiffMap (R : Type*) [CommRing R] [TopologicalSpace R] [ChartedSpace H' R]
+    [SmoothRing I' R] (x : M) : C^∞⟮I, M; I', R⟯ →+* Germ (𝓝 x) R :=
+  RingHom.comp (Germ.coeRingHom _) SmoothMap.coeFnRingHom
```
Comment (mcdoll) [inline Mathlib/Geometry/Manifold/Algebra/SmoothGerm.lean:131]:
```suggestion
  (Germ.coeRingHom _).comp SmoothMap.coeFnRingHom
```

**Comment by grunweg** [comment]
@mcdoll Thanks for the comments; these were really helpful. I didn't know the trick with "double spread notation" (is that the word?) yet.

**Comment by YaelDillies** [comment]
It is simply called "spread notation"

**Comment by YaelDillies** [comment]
Please don't @ people in the PR description above the `---`! Else they will get pinged every time someone adds the commit to their branch.

File: Mathlib/Geometry/Manifold/Algebra/SmoothGerm.lean [hunk 4]
```diff
@@ -0,0 +1,127 @@
...
+  ⟨fun f ↦ ⟨(f : M → N), ⟨f, rfl⟩⟩⟩
+
+@[simp]
+theorem smoothGerm.coe_coe (f : C^∞⟮I, M; I', N⟯) (x : M) :
+    ((f : smoothGerm I I' N x) : (𝓝 x).Germ N) = (f : (𝓝 x).Germ N) :=
+  rfl
+
+@[simp]
+theorem smoothGerm.coe_eq_coe (f g : C^∞⟮I, M; I', N⟯) {x : M} (h : ∀ᶠ y in 𝓝 x, f y = g y) :
+    (f : smoothGerm I I' N x) = (g : smoothGerm I I' N x) := by
```
Comment (YaelDillies) [inline Mathlib/Geometry/Manifold/Algebra/SmoothGerm.lean:58]: Do you think simp will actually every manage to discharge the assumption? I doubt so, so I think this is useless (and expensive) as a simp lemma.

File: Mathlib/Geometry/Manifold/Algebra/SmoothGerm.lean [hunk 5]
```diff
@@ -0,0 +1,127 @@
...
+  ext
+  rwa [Germ.coe_eq]
+
+-- xxx: is this lemma useful?
+lemma smoothGerm_iff_of_smooth_function {x : M} (a : Germ (𝓝 x) N) :
+    a ∈ smoothGerm I I' N x ↔ ∃ f : SmoothMap I I' M N, Germ.ofFun f = a := by
```
Comment (YaelDillies) [inline Mathlib/Geometry/Manifold/Algebra/SmoothGerm.lean:64]: Yes it is, but please call it
```suggestion
-- xxx: is this lemma useful?
lemma mem_smoothGerm {x : M} (a : Germ (𝓝 x) N) :
    a ∈ smoothGerm I I' N x ↔ ∃ f : SmoothMap I I' M N, Germ.ofFun f = a := by
```
Consider making it simp

File: Mathlib/Geometry/Manifold/Algebra/SmoothGerm.lean [hunk 6]
```diff
@@ -0,0 +1,127 @@
...
+  rfl
+
+end definition
+
+-- If `R` has the appropriate structure, `smoothGerm I I' R x` is a subgroup etc.
+-- All axioms are easy to prove by choosing explicit representatives.
+section subring
+
+-- xxx: would this be useful? HasZero resp. HasOne imply the space of smooth germs has one...
```
Comment (YaelDillies) [inline Mathlib/Geometry/Manifold/Algebra/SmoothGerm.lean:73]:
```suggestion
-- xxx: would this be useful? Zero resp. One imply the space of smooth germs has one...
```

File: Mathlib/Geometry/Manifold/Algebra/SmoothGerm.lean [hunk 7]
```diff
@@ -0,0 +1,127 @@
...
+def smoothGerm.toSubsemigroup [SmoothMul I' R] (x : M) : Subsemigroup (Germ (𝓝 x) R) where
+  carrier := smoothGerm I I' R x
+  mul_mem' ha hb := by
+    choose f hf using ha
+    choose g hg using hb
+    exact ⟨f * g, by rw [← hf, ← hg, SmoothMap.coe_mul, Germ.coe_mul]⟩
+
+/-- If `R` is a manifold with smooth multiplication,
+`smoothGerm I I' R x` is a submonoid of `Germ (𝓝 x) R`. -/
+-- FIXME: is this definition useful, given it has the same assumptions has `toSubsemigroup`?
```
Comment (YaelDillies) [inline Mathlib/Geometry/Manifold/Algebra/SmoothGerm.lean:88]: Surely that means `toSubsemigroup` is useless, not `toSubmonoid`? Also grammar
```suggestion
-- FIXME: is this definition useful, given it has the same assumptions as `toSubsemigroup`?
```

File: Mathlib/Geometry/Manifold/Algebra/SmoothGerm.lean [hunk 8]
```diff
@@ -0,0 +1,127 @@
...
+`smoothGerm I I' R x` is an additive sub-semigroup of `Germ (𝓝 x) R`. -/
+def smoothGerm.toAddSubsemigroup [SmoothAdd I' R] (x : M) : AddSubsemigroup (Germ (𝓝 x) R) where
+  carrier := smoothGerm I I' R x
+  add_mem' ha hb := by
+    choose f hf using ha
+    choose g hg using hb
+    exact ⟨f + g, by rw [← hf, ← hg, SmoothMap.coe_add, Germ.coe_add]⟩
+
+/-- If `G` is an additive Lie group, `smoothGerm I I' G x` is
+  an additive subgroup of `Germ (𝓝 x) G`. -/
```
Comment (YaelDillies) [inline Mathlib/Geometry/Manifold/Algebra/SmoothGerm.lean:103]: Do not indent docstrings by default
```suggestion
an additive subgroup of `Germ (𝓝 x) G`. -/
```

File: Mathlib/Geometry/Manifold/Algebra/SmoothGerm.lean [hunk 9]
```diff
@@ -0,0 +1,127 @@
...
+    exact ⟨-f, by rw [← hf, SmoothMap.coe_neg, Germ.coe_neg]⟩
+
+/-- If `R` is a smooth ring, `smoothGerm I I' R x` is a subring of `Germ (𝓝 x) R`. -/
+def smoothGerm.toSubring [SmoothRing I' R] (x : M) : Subring (Germ (𝓝 x) R) where
+  __ := smoothGerm.toSubmonoid I I' R x
+  __ := smoothGerm.toAddSubgroup I I' R x
+
+-- xxx: is this lemma useful?
+lemma smoothGerm.toSubring_mem_coe [SmoothRing I' R] {x : M} (a : Germ (𝓝 x) R) :
+    a ∈ smoothGerm.toSubring I I' R x ↔ a ∈ smoothGerm I I' R x := Iff.rfl
```
Comment (YaelDillies) [inline Mathlib/Geometry/Manifold/Algebra/SmoothGerm.lean:118]: Sure it is, but please call it `mem_toSubring` and add
```
@[simp, norm_cast]
lemma smoothGerm.coe_toSubring : smoothGerm.toSubring I I' R x = smoothGerm I I' R x := rfl
```

File: Mathlib/Geometry/Manifold/Algebra/SmoothGerm.lean [hunk 10]
```diff
@@ -0,0 +1,127 @@
...
+
+/-- The map `C^∞(M, R) → Germ (𝓝 x) R` as a ring homomorphism, for a smooth ring `R`. -/
+def RingHom.germOfContMDiffMap (R : Type*) [CommRing R] [TopologicalSpace R] [ChartedSpace H' R]
+    [SmoothRing I' R] (x : M) : C^∞⟮I, M; I', R⟯ →+* Germ (𝓝 x) R :=
+  (Germ.coeRingHom _).comp SmoothMap.coeFnRingHom
+
+lemma toSubring_eq_range [SmoothRing I' R] (x : M) :
+    smoothGerm.toSubring I I' R x = (RingHom.germOfContMDiffMap I I' R x).range := by
+  rfl
```
Comment (YaelDillies) [inline Mathlib/Geometry/Manifold/Algebra/SmoothGerm.lean:127]: Namespaces are all over the place here. Can you maybe put everything in namespace `smoothGerm`? I also don't think that there needs to be `RingHom` in the name of `RingHom.germOfContMDiffMap`.

**Review by YaelDillies — COMMENTED** [review]
I don't like the way you call every `smoothGerm.toSomething`. This should be reserved to forgetful inheritance constructors, which your `smoothGerm.toSomething`. What about calling them plainly `smoothGerm.something`?

File: Mathlib/Geometry/Manifold/Algebra/SmoothGerm.lean (hunk 4 above)
Comment (grunweg) [reply Mathlib/Geometry/Manifold/Algebra/SmoothGerm.lean:58]: Makes sense, thanks!

File: Mathlib/Geometry/Manifold/Algebra/SmoothGerm.lean (hunk 10 above)
Comment (grunweg) [reply Mathlib/Geometry/Manifold/Algebra/SmoothGerm.lean:127]: Good point, addressed!

**Comment by grunweg** [comment]
Thanks for the review, I'm still learning which collection of API lemmas is useful. I have addressed all comments.
awaiting-review

File: Mathlib/Geometry/Manifold/Algebra/SmoothGerm.lean [hunk 11]
```diff
@@ -0,0 +1,134 @@
+/-
+Copyright (c) 2023 Patrick Massot. All rights reserved.
+Released under Apache 2.0 license as described in the file LICENSE.
+Authors: Patrick Massot
+-/
+import Mathlib.Geometry.Manifold.Algebra.SmoothFunctions
+import Mathlib.Order.Filter.Germ
+
+/-! # Germs of smooth functions
```
Comment (YaelDillies) [inline Mathlib/Geometry/Manifold/Algebra/SmoothGerm.lean:9]:
```suggestion
/-!
# Germs of smooth functions
```

File: Mathlib/Geometry/Manifold/Algebra/SmoothGerm.lean [hunk 12]
```diff
@@ -0,0 +1,134 @@
...
+
+Germs of smooth functions between manifolds.
+
+## Main definitions and results
```
Comment (YaelDillies) [inline Mathlib/Geometry/Manifold/Algebra/SmoothGerm.lean:13]:
```suggestion
## Main definitions and results

```

File: Mathlib/Geometry/Manifold/Algebra/SmoothGerm.lean [hunk 13]
```diff
@@ -0,0 +1,134 @@
...
+* `smoothGerm I I' N x`: the set of germs of smooth functions `f : M → N` at `x : M`
+* `smoothGerm.toSubring` and friends: if `R` is a smooth ring,
+the space of germs of smooth functions `M → R` is a subring of `Germ (𝓝 x) R`
+
+## Tags
+germ, smooth function, manifold
+
```
Comment (YaelDillies) [inline Mathlib/Geometry/Manifold/Algebra/SmoothGerm.lean:20]:
```suggestion

germ, smooth function, manifold
```

File: Mathlib/Geometry/Manifold/Algebra/SmoothGerm.lean [hunk 14]
```diff
@@ -0,0 +1,134 @@
...
+namespace smoothGerm
+
+/-! Definition of germs of smooth maps, between any two manifolds. -/
+section definition
+
+variable (N) in
+/-- The set of all germs of smooth functions `M → N` at `x : N`. -/
+def _root_.smoothGerm (x : M) : Set (Germ (𝓝 x) N) :=
+  { Filter.Germ.ofFun f | f : SmoothMap I I' M N }
```
Comment (YaelDillies) [inline Mathlib/Geometry/Manifold/Algebra/SmoothGerm.lean:47]: This one

File: Mathlib/Geometry/Manifold/Algebra/SmoothGerm.lean [hunk 15]
```diff
@@ -0,0 +1,134 @@
...
+
+theorem coe_eq_coe (f g : C^∞⟮I, M; I', N⟯) {x : M} (h : ∀ᶠ y in 𝓝 x, f y = g y) :
+    (f : smoothGerm I I' N x) = (g : smoothGerm I I' N x) := by
+  ext
+  rwa [Germ.coe_eq]
+
+@[simp]
+lemma mem_smoothGerm {x : M} (a : Germ (𝓝 x) N) :
+    a ∈ smoothGerm I I' N x ↔ ∃ f : SmoothMap I I' M N, Germ.ofFun f = a := by
+  rfl
```
Comment (YaelDillies) [inline Mathlib/Geometry/Manifold/Algebra/SmoothGerm.lean:65]: ... and this one should be declared before `namespace smoothGerm` as they are about `smoothGerm` as a set, not a type

**Review by YaelDillies — COMMENTED** [review]
The Lean code looks fine, but I do wonder whether you really want to declare `smoothGerm` as a bunch of subobjects, rather than as a type. cf #12386

File: Mathlib/Geometry/Manifold/Algebra/SmoothGerm.lean [hunk 16]
```diff
@@ -0,0 +1,131 @@
...
+  (I : ModelWithCorners 𝕜 E H) {M : Type*} [TopologicalSpace M] [ChartedSpace H M]
+  [SmoothManifoldWithCorners I M]
+  -- Declare a smooth manifold `N` over the pair `(E', H')` with model `I'`.
+  {E' : Type*} [NormedAddCommGroup E'] [NormedSpace 𝕜 E']
+  {H' : Type*} [TopologicalSpace H'] (I' : ModelWithCorners 𝕜 E' H')
+  {N : Type*} [TopologicalSpace N] [ChartedSpace H' N]
+
+variable (N) in
+/-- The set of all germs of smooth functions `M → N` at `x : N`. -/
+def _root_.smoothGerm (x : M) : Set (Germ (𝓝 x) N) :=
```
Comment (semorrison) [inline Mathlib/Geometry/Manifold/Algebra/SmoothGerm.lean:44]: Confusing to use _root_ when you're not even in a namespace!

File: Mathlib/Geometry/Manifold/Algebra/SmoothGerm.lean [hunk 17]
```diff
@@ -0,0 +1,131 @@
...
+-- All respective axioms are easy to prove by choosing explicit representatives.
+section subring
+
+-- xxx: would this be useful? Zero resp. One imply the space of smooth germs has one...
+variable (I' : ModelWithCorners 𝕜 E' H')
+  (R : Type*) [CommRing R] [TopologicalSpace R] [ChartedSpace H' R]
+
+/-- If `R` is a manifold with smooth multiplication,
+`smoothGerm I I' R x` is a sub-semigroup of `Germ (𝓝 x) R`. -/
+-- FIXME: is this definition useful, given it has the same assumptions as `submonoid`?
```
Comment (semorrison) [inline Mathlib/Geometry/Manifold/Algebra/SmoothGerm.lean:76]: I don't think so.

File: Mathlib/Geometry/Manifold/Algebra/SmoothGerm.lean [hunk 18]
```diff
@@ -0,0 +1,131 @@
...
+/-- If `R` is a smooth ring, `smoothGerm I I' R x` is a subring of `Germ (𝓝 x) R`. -/
+def subring [SmoothRing I' R] (x : M) : Subring (Germ (𝓝 x) R) where
+  __ := smoothGerm.submonoid I I' R x
+  __ := smoothGerm.addSubgroup I I' R x
+
+@[simp, norm_cast]
+lemma coe_toSubring [SmoothRing I' R] (x : M) : smoothGerm.subring I I' R x = smoothGerm I I' R x :=
+  rfl
+
+lemma mem_toSubring [SmoothRing I' R] {x : M} (a : Germ (𝓝 x) R) :
```
Comment (semorrison) [inline Mathlib/Geometry/Manifold/Algebra/SmoothGerm.lean:117]: If you're going to having each intermediate structure, there should be corresponding lemmas for each.

Comment (semorrison) [inline Mathlib/Geometry/Manifold/Algebra/SmoothGerm.lean:117]: simp?

File: Mathlib/Geometry/Manifold/Algebra/SmoothGerm.lean [hunk 19]
```diff
@@ -0,0 +1,131 @@
...
+    a ∈ smoothGerm.subring I I' R x ↔ a ∈ smoothGerm I I' R x := Iff.rfl
+
+/-- The map `C^∞(M, R) → Germ (𝓝 x) R` as a ring homomorphism, for a smooth ring `R`. -/
+def germOfContMDiffMap (R : Type*) [CommRing R] [TopologicalSpace R] [ChartedSpace H' R]
```
Comment (semorrison) [inline Mathlib/Geometry/Manifold/Algebra/SmoothGerm.lean:121]: There's an algebra morphism, too.

File: Mathlib/Geometry/Manifold/Algebra/SmoothGerm.lean (hunk 18 above)
Comment (grunweg) [reply Mathlib/Geometry/Manifold/Algebra/SmoothGerm.lean:117]: Fair point - added.

File: Mathlib/Geometry/Manifold/Algebra/SmoothGerm.lean (hunk 19 above)
Comment (grunweg) [reply Mathlib/Geometry/Manifold/Algebra/SmoothGerm.lean:139]: Indeed! Let me classify this as follow-up, though.

**Comment by grunweg** [comment]
awaiting-review

File: Mathlib/Geometry/Manifold/Algebra/SmoothGerm.lean [hunk 20]
```diff
@@ -0,0 +1,149 @@
...
+  [SmoothManifoldWithCorners I M]
+  -- Declare a smooth manifold `N` over the pair `(E', H')` with model `I'`.
+  {E' : Type*} [NormedAddCommGroup E'] [NormedSpace 𝕜 E']
+  {H' : Type*} [TopologicalSpace H'] (I' : ModelWithCorners 𝕜 E' H')
+  {N : Type*} [TopologicalSpace N] [ChartedSpace H' N]
+
+variable (N) in
+/-- The set of all germs of smooth functions `M → N` at `x : N`. -/
+def smoothGerm (x : M) : Set (Germ (𝓝 x) N) :=
+  { Filter.Germ.ofFun f | f : SmoothMap I I' M N }
```
Comment (YaelDillies) [inline Mathlib/Geometry/Manifold/Algebra/SmoothGerm.lean:45]: Can some differential geometer (@PatrickMassot, @hrmacbeth?) confirm/infirm that we really want smooth germs to be a set of germs rather than a `structure`? I find this design a bit odd given how the rest of the file uses `smoothGerm` (namely as a type), but I am also not knowledgeable enough to make a call either direction.

Comment (jcommelin) [reply Mathlib/Geometry/Manifold/Algebra/SmoothGerm.lean:45]: @grunweg During a triage party, this question came up again. We think it should be a type. Can you convince us otherwise?

**Comment by joneugster** [comment]
Mathlib has moved to PRs from forks. This PR is still from a branch of the main repository and will soon be closed! Please migrate the content to a fork and reopen a PR from there if you wish to do so. See [Zulip topic](https://leanprover.zulipchat.com/#narrow/channel/287929-mathlib4/topic/all.20future.20PRs.20should.20be.20made.20from.20forks/with/624081853) for more instructions. Thank you for contributing to mathlib!
